Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pregabalin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
History difficult to obtain as records are scarce and the 
patient is a somewhat questionable historian.

Ms ___ is a ___ with fibromyalgia, depression, reported Crohn's 
disease s/p bowel resection x 2 (but on no medications, 
currently reports no symptoms), CCY in ___, and recent 
difficulty with choledocholithiasis s/p stent who presents with 
abdominal pain.

She tells me that in ___ she had a bout of severe 
epigastric pain after eating, and was diagnosed with biliary 
colic and cholelithiasis. She had CCY at that time. She says 
that her surgeon noted a retained gallstone but recommended no 
intervention. Since that time, she has had difficulty with 
intermittent postprandial abdominal pain. Earlier this month, 
she experienced a severe bout of epigastric postprandial pain, 
and presented to ___. It is unclear whether she had 
pancreatitis or simply pain with obstructive LFT (ED note here 
says pancreatitis but I don't see this mentioned elsewhere, 
patient was unclear about it). She was admitted and ultimately 
underwent MRCP which demonstrated a gallstone in CBD. She then 
had ERCP, but stone retrieval was unsuccessful so stent was 
placed. She was discharged a few days later with outpatient 
followup. She apparently had fluctuating laboratory studies but 
was feeling overall well; there may have been plans for referral 
to ___ for elective ERCP.

Unfortunately, she reports that pain returned on ___ evening, 
again post prandial. She describes it as sharp, 
xyphoid/epigastric, bandlike radiation with some pain between 
her shoulder blades, moderate to severe. She represented to 
___ ED, where vitals were stable but labs showed 
lipase >2x ULN with mildly elevated transaminases. The GI doctor 
there recommended transfer to ___.

In our ED, vitals were stable. Labs were sent that were 
relatively unchanged from ___. Images were uploaded to PACS. 
Admission was requested.

ROS is negative in 10 points except as above
 
Past Medical History:
PMH: fibromyalgia, depression, reported Crohn's disease 

PSH: CCY, hysterectomy, bowel resection x2
 
Social History:
___
Family History:
Gallstones run in the family (mother and sisters all with 
gallstones)
 
Physical Exam:
 Vitals AVSS, pain rated ___
 Gen NAD
 Abd soft, ND, bs+; mildly tender in the epigastrum with deep 
palpation
 CV RRR, no MRG
 Lungs CTA ___
 Ext WWP, no edema
 Skin no rash, anicteric
 GU no foley
 Eyes EOMI
 HENT MMM, OP clear
 Neuro nonfocal, moves all extremities, steady gait
 Psych normal affect
 
Pertinent Results:
Labs on admission
___ 12:48AM BLOOD WBC-6.1 RBC-4.28 Hgb-12.1 Hct-37.1 MCV-87 
MCH-28.3 MCHC-32.6 RDW-13.5 RDWSD-42.2 Plt ___
___ 12:48AM BLOOD ___ PTT-31.7 ___
___ 12:48AM BLOOD Glucose-128* UreaN-13 Creat-1.1 Na-139 
K-4.7 Cl-104 HCO3-27 AnGap-13
___ 12:48AM BLOOD ALT-63* AST-38 AlkPhos-222* TotBili-0.6
___ 12:48AM BLOOD Lipase-113*
___ 12:48AM BLOOD Albumin-3.7 Calcium-9.0 Phos-4.1 Mg-2.1

Imaging on admission
While there is apparently an US, maybe HIDA or ERCP imaging, 
MRCP, and CTAP uploaded, the images are not displaying properly 
and I cannot interpret them. There are no reports in the chart.

___ CT
FINDINGS: 
 
LOWER CHEST: There is bibasilar atelectasis.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. 
There is no evidence of focal lesions.  There is expected 
pneumobilia with a
common bile duct stent in place.  There is a small amount of 
stranding
surrounding this common bile duct.  The gallbladder is 
surgically absent.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. 
There is no evidence of focal renal lesions or hydronephrosis.  
There is no
perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout.  
Postsurgical
changes with small bowel anastomosis in the mid abdomen are 
noted.  The colon
and rectum are within normal limits.  The appendix is normal.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no
free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The reproductive organs are unremarkable.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There
is no pelvic or inguinal lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease
is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION: 
 
There is a small amount of stranding surrounding the common bile 
duct possibly
related to stent placement or passed stone.  No retained stones 
are
visualized.  Pancreas appears normal.

ERCP ___

Impression:
The scout film showed evidence of a previously placed plastic 
biliary stent.
The previously placed plastic biliary stent was found at the 
major papilla and was removed with a rat tooth forceps.
Evidence of a previous sphincterotomy was noted in the major 
papilla.
Cannulation of the biliary duct was successful and deep with a 
balloon using a free-hand technique.
Contrast medium was injected resulting in complete 
opacification.
The common bile duct, common hepatic duct, right and left 
hepatic ducts, biliary radicles and cystic duct were filled with 
contrast and well visualized. The CBD and CHD were dilated to 8 
mm.
An 8 mm filling defect consistent with a stone was seen in the 
CBD at the cystic duct takeoff.
The cholangiogram was otherwise normal.
The stone could not be successfully removed with balloon sweeps 
or mechanical lithotripsy.
Spyglass cholangioscopy was performed and a large stone was seen 
at the cystic duct takeoff.
___ was performed and the stone was successfully fragmented.
Balloon sweeps were then performed and the stone and stone 
fragments were successfully extracted.
The CBD and CHD were swept repeatedly until no further stones or 
sludge were seen.
An occlusion cholangiogram confirmed the absence of any 
persistent filling defects.
A ___ Fr x 5 cm double pigtail stent was placed into the left 
hepatic duct in order to ensure adequate biliary drainage.
Excellent drainage of bile and contrast was noted endoscopically 
and fluoroscopically.
Otherwise normal ercp to third part of the duodenum
Recommendations:
Clear fluids when awake then advance diet as tolerated.
Repeat ERCP in 4 to 6 weeks for stent pull and re-evaluation.
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___

Hematology
  COMPLETE BLOOD 
COUNTWBCRBCHgbHctMCVMCHMCHCRDWRDWSDPlt Ct
___ 06:05  
___
___ 06:55  
___
___ 07:16  ___
___ 06:38  
___ 00:48  ___
DIFFERENTIALNeutsBandsLymphsMonosEosBasoAtypsMetasIm 
GranAbsNeutAbsLympAbsMonoAbsEosAbsBaso
___ 00:48  53.9 33.66.94.70.7  
___
  BASIC COAGULATION ___, PTT, PLT, INR)PTPTTPlt ___
___ 06:05    149* 
___ 06:55    153 
___ 07:16    150 
___ 06:38    181 
___ 06:38  11.131.9 1.0
___ 00:48    202 
___ 00:48  11.231.7 1.0
Chemistry
  RENAL & GLUCOSEGlucoseUreaNCreatNaKClHCO3AnGap
___ 06:05  ___
___ 07:16  ___
___ 06:38  ___
___ 00:48  ___

If fasting, 70-100 normal, >125 provisional diabetes
IF FASTING, 70-100 NORMAL, >125 PROVISIONAL DIABETES
ESTIMATED GFR (MDRD CALCULATION)estGFR
___ 06:38  Using this1
___ 00:48  Using this2

Using this patient's age, gender, and serum creatinine value of 
1.2, 
Estimated GFR = 48 if non ___ (mL/min/1.73 m2) 
Estimated GFR = 58 if ___ (mL/min/1.73 m2) 
For comparison, mean GFR for age group ___+ is 75 (mL/min/1.73 
m2) 
GFR<60 = Chronic Kidney Disease, GFR<15 = Kidney Failure
Using this patient's age, gender, and serum creatinine value of 
1.1,
Estimated GFR = 53 if non ___ (mL/min/1.73 m2)
Estimated GFR = 64 if ___ (mL/min/1.73 m2)
For comparison, mean GFR for age group ___ is 99 (mL/min/1.73 
m2)
GFR<60 = Chronic Kidney Disease, GFR<15 = Kidney Failure
  ENZYMES & 
B
ILIRUBINALTASTLD(LDH)CK(CPK)AlkPhosAmylaseTotBiliDirBili
___ 06:55  66*44*  205* 0.6 
___ 07:16  60*44*  208* 0.8 
___ 06:38  54*33  208* 0.6 
___ 00:48  63*38  222* 0.6 
OTHER ENZYMES & BILIRUBINSLipase
___ 06:38  88*
___ 00:48  113*
  CHEMISTRYTotProtAlbuminGlobulnCalciumPhosMgUricAcdIron
___ 07:16     ___  
___ 06:38     8.73.92.1  
___ 00:48   3.7 ___

Stool C DIFF PCR ___ NEGATIVE

 
Brief Hospital Course:
___ with fibromyalgia, depression, Crohn's disease s/p bowel 
resection x 2, CCY in ___ complicated by retained gallstone, 
s/p recent ERCP with failed stone retrieval, s/p stent 
placement,
presented with recurrent RUQ abdominal and epigastric pain. 
Lipase elevated. Transferred here ___ for ERCP evaluation. 
Underwent removal of CBD stone w/ CBD stent placement.

# Choledocholithiasis
# Mild pancreatitis
# Chronic fibromyalgia
# Chronic depression
# Chronic Crohn's disease

She was managed conservatively with IVF and pain meds. She 
underwent ERCP with findings as described.  She did well 
post-procedurally and tolerated a normal diet prior to discharge 
off pain meds.  She had diarrhea and was NEGATIVE for C.diff.  
She needs ERCP f/u in ___ weeks.  Patient inquired if can be 
done with her local GI and ERCP team indicated per their 
discussion with patient that either option is okay with them.  
Patient will likely f/u with local GI but know repeat ERCP needs 
to be done.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Gabapentin 900 mg PO QAM 
3. Gabapentin 900 mg PO NOON 
4. Gabapentin 1200 mg PO QHS 
5. Nortriptyline 25 mg PO QHS 

Per pharm records, also has been prescribed hyoscyamine, 
dicyclomine, and Percocet but she denied taking these
 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Gabapentin 1200 mg PO QHS 
3. Gabapentin 900 mg PO NOON 
4. Nortriptyline 25 mg PO QHS 
5. Gabapentin 900 mg PO QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with recent abdominal pain and a known 
gallstone in you bile duct, for ERCP to have it removed. This 
was done successfully ___ and a CBD stent was placed.  You 
need to have this removed and re-evaluated in ___ weeks with 
your GI doc or the ERCP team here.
 
Followup Instructions:
___